US06218128B1
To a solution of 6-hydroxy-2,2-dimethylthiochroman-4-one (165.0 mg. 0.79 mmol) in 5.0 mL of anhydrous pyridine at 0° C. was added trifluoromethanesulfonic anhydride (245.0 mg. 0.87 mmol). After 4 h at 0° C. the solution was concentrated and the residual oil dissolved in Et2O, washed with H2O followed by saturated aqueous NaCl, and dried over MgSO4. Removal of the solvents under reduced pressure and column chromatography (5% EtOAc/hexanes) afforded 126.0 mg (47%) of 2,2-dimethyl-4-oxo-thiochroman-6-yl trifluoromethanesulfonate as a colorless solid. 1H NMR (300 MHz, CDCl3) δ: 7.97 (1H, s), 7.32 (2H, s), 2.90 (2H, s), 1.49 (6H, s).

reactant | 6-hydroxy-2,2-dimethylthiochroman-4-one | 0.79 mmol, 165.0 mg | OC=1C=C2C(CC(SC2=CC1)(C)C)=O | C11H12O2S
reactant | trifluoromethanesulfonic anhydride | 0.87 mmol, 245.0 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 5.0 mL | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-4-oxo-thiochroman-6-yl trifluoromethanesulfonate | 126.0 mg, 47% | FC(S(=O)(=O)OC=1C=C2C(CC(SC2=CC1)(C)C)=O)(F)F | C12H11F3O4S2
